US09102637B2
(b) N-(2-hydroxyethyl)-5-{4-[(2-hydroxyethyl)amino]benzamido}-2-(naphthalen-2-yl-amino)thiazole-4-carboxamide
A solution of Ethyl 5-(4-fluorobenzamido)-2-(naphthalen-2-ylamino)thiazole-4-carboxylate (25 mg, 0.06 mmol) and 2-aminoethanol (0.024 mL, 0.40 mmol) in NMP (0.5 mL) was treated using a microwave synthesizer for 70 min (Biotage, 150° C.). The reaction mixture was diluted with EtOAc. The organic layer was washed with H2O, dried over Na2SO4 and concentrated in vacuo. The resulting residue was purified by silica gel chromatography eluted with 2.5% MeOH in DCM to give 7 mg (25% yield) of the titled compound.

reactant | Ethyl 5-(4-fluorobenzamido)-2-(naphthalen-2-ylamino)thiazole-4-carboxylate | 0.06 mmol, 25 mg | FC1=CC=C(C(=O)NC2=C(N=C(S2)NC2=CC3=CC=CC=C3C=C2)C(=O)OCC)C=C1 | C23H18FN3O3S
reactant | 2-aminoethanol | 0.40 mmol, 0.024 mL | NCCO | C2H7NO
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-hydroxyethyl)-5-{4-[(2-hydroxyethyl)amino]benzamido}-2-(naphthalen-2-yl-amino)thiazole-4-carboxamide | 7 mg, 25% yield | OCCNC(=O)C=1N=C(SC1NC(C1=CC=C(C=C1)NCCO)=O)NC1=CC2=CC=CC=C2C=C1 | C25H25N5O4S
